US08247112B2
Synthesis of tri-n-octylmethylphosphonium bis(trifluoromethylsulfonyl)imide (Hereinafter Referred to as “TOMP-TFSI)
To 185 g (0.5 mol) of a commercially available tri-n-octylphosphine (product name: HISHICOLIN (registered trademark) P-8, manufactured by Nippon Chemical Industrial Co., Ltd.), 71 g (0.5 mol) of iodomethane (reagent, manufactured by Tokyo Chemical Industry Co., Ltd.) was added dropwise under a nitrogen atmosphere, and the mixture was reacted at 30 to 40° C. for 5 hours. After the reaction was completed, 100 ml of hexane was added to the reaction mixture to separate layers. The resulting liquid was then washed three times with hexane and vacuum dried under a degree of vacuum of 0.5 kPa at 80° C. for 3 hours to obtain 205 g (yield 80%) of tri-n-octylmethylphosphonium iodide. To 41 g (0.08 mol) of the resulting tri-n-octylmethylphosphonium iodide, was added 41 g of pure water. To the mixture with stirring, was added 23 g (0.08 mol) of lithium bis(trifluoromethylsulfonyl)imide (reagent, manufactured by Kanto Chemical Co., Inc.) to allow them to react with each other, followed by stirring for 2 hours at room temperature for aging. After the completion of aging with stirring, the lower layer (product) was separated from the mixture and washed four times with pure water. After the completion of the washing, the product was vacuum dried under a degree of vacuum of 0.5 kPa at 80° C. for 3 hours. The structure of the resulting product was examined by 1H-NMR, 13C-NMR, 19F-NMR, and 31P-NMR. The product was identified as tri-n-octylmethylphosphonium bis(trifluoromethylsulfonyl)imide (TOMP-TFSI), and it had a purity of 99%. The resulting TOMP-TFSI was a colorless transparent liquid at room temperature (25° C.), which had a moisture content determined by the Karl Fischer titration method of 65 ppm and a chlorine content determined by ion chromatography of 10 ppm. The amount of the product yielded was 49 g (yield 92%). The product had an electrical conductivity at 25° C. of 0.09 mS/cm.

reactant | tri-n-octylmethylphosphonium iodide | 0.08 mol, 41 g | [I-].C(CCCCCCC)[P+](C)(CCCCCCCC)CCCCCCCC
reactant | lithium bis(trifluoromethylsulfonyl)imide | 0.08 mol, 23 g | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Li+]
solvent | water | 41 g | O | H2O
product | tri-n-octylmethylphosphonium bis(trifluoromethylsulfonyl)imide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.C(CCCCCCC)[P+](C)(CCCCCCCC)CCCCCCCC | InChI=1S/C25H54P.C2F6NO4S2/c1-5-8-11-14-17-20-23-26(4,24-21-18-15-12-9-6-2)25-22-19-16-13-10-7-3;3-1(4,5)14(10,11)9-15(12,13)2(6,7)8/h5-25H2,1-4H3;/q+1;-1
